US05750531
Step 2: 2-(2-Methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
2-Methyl-4-fluoroaniline(1.1 ml, 10.2 mmol) was added to a mixture solution of 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(1.5 g, 5.8 mmol) and dimethylformamide(10 ml). The reaction mixture was stirred for 3 hours at 110°-120° C., cooled to a room temperature, diluted with dichloromethane, and then washed with water. The dichloromethane layer was separated, basified with aqueous sodium hydroxide, washed with water, dried and concentrated. The resulting residue was crystallized by silica gel column chromatography to give free base form of the titled compound. To a mixture solution of the free base form of the titled compound and ethyl ether was added aqueous hydrochloric acid and the resulting titled compound was filtered and dried in vacuo. Recrystallization from ethanol afforded 1.2 g of the titled compound as a white crystalline solid.

reactant | 2-Methyl-4-fluoroaniline | 10.2 mmol, 1.1 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 5.8 mmol, 1.5 g | CC1N(CCC2=CC=CC=C12)C1=NC(=NC=C1)Cl | C14H14ClN3
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(2-Methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | Cl.CC1=C(C=CC(=C1)F)NC1=NC=CC(=N1)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C21H21FN4.ClH/c1-14-13-17(22)7-8-19(14)24-21-23-11-9-20(25-21)26-12-10-16-5-3-4-6-18(16)15(26)2;/h3-9,11,13,15H,10,12H2,1-2H3,(H,23,24,25);1H
